US07981886B2
6-{2-[4-(4-methoxy-benzothiazole-2-carbonyl)-piperidin-1-yl]-acetyl}-4H-benzo[1,4]oxazin-3-one
A mixture of (4-methoxy-benzothiazol-2-yl)-piperidin-4-yl-methanone (83 mg, 0.3 mmol) and 6-(2-chloro-acetyl)-4H-benzo[1,4]oxazin-3-one (68 mg, 0.3 mmol) in DMF (1 ml) was treated with DIPEA (50 μl, 0.3 mmol) and the mixture was stirred at RT overnight. The mixture was poured on water and extracted with EtOAc. The organic layers were dried over MgSO4 and concentrated. Crystallisation from ether gave 113 mg (81%) of title compound as a beige solid.

reactant | (4-methoxy-benzothiazol-2-yl)-piperidin-4-yl-methanone | 0.3 mmol, 83 mg | COC1=CC=CC2=C1N=C(S2)C(=O)C2CCNCC2 | C14H16N2O2S
reactant | 6-(2-chloro-acetyl)-4H-benzo[1,4]oxazin-3-one | 0.3 mmol, 68 mg | ClCC(=O)C=1C=CC2=C(NC(CO2)=O)C1 | C10H8ClNO3
reactant | DIPEA | 0.3 mmol, 50 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 6-{2-[4-(4-methoxy-benzothiazole-2-carbonyl)-piperidin-1-yl]-acetyl}-4H-benzo[1,4]oxazin-3-one | 113 mg, 81% | COC1=CC=CC2=C1N=C(S2)C(=O)C2CCN(CC2)CC(=O)C=2C=CC1=C(NC(CO1)=O)C2 | C24H23N3O5S
